US06093731
A solution of NaOH (75 mL, 2 M, 150 mmol) was added to a solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]cycloleucine ethyl ester (1.39 g, 3.16 mmol) in MeOH (75 mL) and the mixture heated at 40-50° C. for 24 h. The cooled mixture was neutrilised with dilute HCl (75 mL, 2 M) to give a precipitate and the MeOH was evaporated in vacuo. The solid was collected by filtration, with copious water washing, and dried under high vacuum to give N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]cycloleucine (1.27 g, 3.08 mmol) as a white powder.

reactant | NaOH | 150 mmol, 2 M, 75 mL | [OH-].[Na+]
reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]cycloleucine ethyl ester | 3.16 mmol, 1.39 g | C(C)OC(C1(NS(=O)(=O)C2=CC=C3C(=CN=C(C3=C2)NC(=N)N)Cl)CCCC1)=O | C18H22ClN5O4S
reactant | HCl | 2 M, 75 mL | Cl | ClH
solvent | MeOH | 75 mL | CO | CH4O
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]cycloleucine | 3.08 mmol, 1.27 g | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC1(CCCC1)C(=O)O)NC(=N)N | C16H18ClN5O4S
